US05096904
A mixture of 500 mg (2.45 mmol) of 6-(4-hydroxyphenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone (prepared by the method described in Eur. Pat. Appl. EP 178,189 A2), 373 mg (2.70 mmol) of powdered anhydrous K2CO3, and 790 mg (2.95 mmol) of N-(3-bromopropyl)phthalimide in 10 ml of DMF is heated at 100° C. for 2 hrs. The DMF is removed under vacuum, the residue is taken up in 125 ml of EtOAc and 100 ml of water, the organic phase washed once with 75 ml of water, dried (MgSO4), and the solvent removed to give 0.997 g of 6-[4-(3-phthalimidopropyloxy)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone as a white solid. Yield, 99%.

reactant | 6-(4-hydroxyphenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 2.45 mmol, 500 mg | OC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H12N2O2
reactant | K2CO3 | 2.70 mmol, 373 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(3-bromopropyl)phthalimide | 2.95 mmol, 790 mg | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-[4-(3-phthalimidopropyloxy)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.997 g | C1(C=2C(C(N1CCCOC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)=O)=CC=CC2)=O | C22H21N3O4
